Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]([O:3][H:12])([C+:4]=[C:6]=[N-:7])[H:11])([H:8])([H:9])[H:10].[C:5]([H:13])([H:14])([H:15])[H:16]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10],2.8255139157745077
[C:3](=[C:4]([H:10])[H:11])([H:8])[H:9].[C:5](=[O:6])([H:7])[H:12].[O+:1]#[C-:2]>>[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],32.8558340493905
[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:7]([C:6](=[C:4]=[O+:5][O-:3])[H:12])[H:13])[H:11])([H:8])([H:9])[H:10],144.792524094969
[C:1]1([H:8])([H:9])[C@:2]([C:3](=[O:4])[H:11])([H:10])[C:5][C:6]1([H:7])[H:12]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9],32.8926513728244
[C:1](=[N:2][H:10])([H:7])[H:8].[C:3](=[O:4])([C:5]([O:6][H:13])([H:11])[H:12])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9],52.527113919320996
[O:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[C:5](=[O:6])([H:8])[H:10].[O:1]([C+:2]([C:3]#[C-:4])[H:9])[H:7],85.93908491008447
[O:1]=[C:2]=[C:3]([O:4][C:5]1([H:10])[C:6]([H:11])([H:12])[C:7]1([H:8])[H:13])[H:9]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@@:5]2([H:10])[C:6]([H:11])([H:12])[C@@:7]12[H:13],47.9721011875095
[C:1](=[C:2]=[C:3]=[C:4]([H:10])[H:11])([H:8])[H:9].[C:5]([O:6][H:14])([H:7])([H:12])[H:13]>>[C:1]([C:2]#[C:3][C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],58.300581209896094
[C:1]([C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:2]=[C:3]=[O:4]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],103.52975280530471
[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]1=[C:7]([H:13])[C@:6]1([N:5]([N:4])[H:11])[H:12])([H:8])([H:9])[H:10],123.805454645123
[O+:1](=[C-:2][H:7])[C:3](=[O:4])[C:5]#[N:6]>>[O:1]=[C:2]([C:3](=[O:4])[C:5]#[N:6])[H:7],1.763105937084596
[O:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2](=[C:3]([O-:4])[C:5](=[C+:6][H:10])[H:9])[H:8])[H:7],52.6508184301844
[C:1]([O:2][C:5]1=[N:6][C@@:3]1([C:4]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],44.248761591579004
[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@:5]([C:3](=[O:4])[O:7][H:15])([C:6]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],90.9630406723539
[N:1]#[C:2][N+:7]([C:4](=[C:3]=[O:5])[H:8])=[N-:6]>>[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6],78.8103362446289
[C:1]([C:2](=[O:3])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([O:3][H:17])[C:4]([C:5]([H:11])([H:12])[H:13])=[O:7])([H:9])[H:10].[C:6]([H:8])([H:14])([H:15])[H:16],81.6238804883442
[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11]>>[O:1]=[C:2]=[C:3]([N:4]1[C:5]([H:9])([H:10])[C:6]1([H:8])[H:11])[H:7],70.5226619675864
[C:1]([C:2]([C:3]([O:4][H:13])([C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5](=[C:6]([H:16])[H:18])([H:14])[H:15].[H:13][H:17],64.58744363283989
[C:1]([H:8])([H:9])([H:10])[H:12].[O:2]=[C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])[H:11]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],130.0544611826993
[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C:2]2([O:3]1)[N:4]([H:10])[C:5]([H:7])([H:11])[N:6]2[H:12],119.778309314552
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[O+:6]=[C-:5][H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[H:16])([H:7])([H:8])[H:9],46.44703983403739
[C-:5]#[O+:6].[C:1]([C:2]([N:3]([H:10])[H:11])=[O:4])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9],47.65348260999236
[C:1]([C:4](=[C:2]=[O+:3][O-:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10],46.458884541819
[C:3]1(=[C:6]=[O:7])[C:4]([H:11])([H:12])[N:5]1[H:13].[O:1]([C:2]([H:9])([H:10])[H:14])[H:8]>>[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8],37.979152794049
[C+:1]([C:2]([C@:3]1([H:11])[N-:4][C:6]([H:14])([H:15])[C:5]1([H:12])[H:13])([H:9])[H:10])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11],40.389721825913895
[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[n:7]1)([H:8])[H:9]>>[N:1]([C:2]#[N+:7][C-:5](/[C:3](=[N:4]/[H:11])[H:10])[O:6][H:12])([H:8])[H:9],73.8615427132529
